*test circuit
.include modelcard.ptm
 
 
VDD vdd 0 1.2
VSS vss 0 0
 
Vin in2 0 AC 1 SIN(0.6 0.6 10k 0 0)
 
XUAMP out in2 out vdd vss basic_amp
 
*Cl out vss 10p
*Rl out vss 0.1k
 
.tran 1u 1m
 
.save v(out) v(in1) v(in2)
 
.subckt basic_amp in1 in2 out vdd vss
M3 d3 in2 midp vdd PTM90P W=72u L=850n
M4 d4 in1 midp vdd PTM90P W=72u  L=850n
M6 midp bias1 vdd vdd PTM90P W=10u L=800n
 
M1 d1 in1 midn vss PTM90N W=32u L=850n
M2 d2 in2 midn vss PTM90N W=32u L=850n
M5  midn bias2 vss vss  PTM90N W=3.5u L=500n
 
M7  d1  g7    vdd vdd PTM90P W=6u  L=180n
M8  d2  g7    vdd vdd PTM90P W=6u  L=180n
M9  g7  bias3 d1  vdd PTM90P W=6u  L=220n
 
M10 d10 bias3 d2  vdd PTM90P W=6u  L=220n
M11 s15 bias4 d4  vss PTM90N W=3.5u L=1200n
M12 s17 bias4 d3  vss PTM90N W=3.5u L=1200n
 
M13 d4  s15   vss  vss  PTM90N W=2u  L=1200n
M14 d3  s15   vss  vss  PTM90N W=2u  L=1200n
M15 g7  bias5 s15 vss   PTM90N W=3u  L=220n
 
M16 s15 bias6 g7  vdd PTM90P W=10u L=1400n
M17 d10 bias5 s17 vss PTM90N W=3u  L=180n
M18 s17 bias6 d10 vdd PTM90P W=10u L=1400n
 
M19 out d10 vdd vdd PTM90P W=280u L=380n
M20 out s17 vss vss PTM90N W=140u L=380n
 
M21 bias2 bias2 vss vss PTM90N W=0.5u L=2000n
M22 bias1 bias1 vdd vdd PTM90P W=6.7u L=800n
 
M23 bias3 bias3 vss  vss PTM90N W=4u  L=800n
M24 bias3 bias1 vdd vdd PTM90P W=50u  L=800n
 
M25 bias4 bias2 vss  vss PTM90N W=0.8u L=2000n
M26 bias4 bias4 vdd vdd PTM90P W=180u  L=2000n
 
M27 bias6 bias6 vss  vss PTM90N W=400u L=800n
M28 bias6 bias1 vdd vdd PTM90P W=0.14u L=800n
 
M29 bias5 bias2 vss  vss PTM90N W=0.19u  L=2000n
M30 bias5 bias5 vdd vdd PTM90P W=400u  L=120n
 
Cc1 out d10 4p
Cc2 out s17 4p
 
Ibias1 bias1 bias2 15u
.ends
 
 
.end